US07718808B2
3,4-Dimethylpyridine (2.25 mL, 20.0 mmol) and ethyl furan-2-carboxylate (5.02 mL, 40.0 mmol) were dissolved in THF (20 mL), and at 0° C., a 1.0 mol/L solution of lithium hexamethyldisilazide in THF (40.0 mL, 40.0 mmol) was added dropwise thereto, followed by stirring at room temperature for 1.5 hours. The reaction mixture was poured into a saturated aqueous solution of ammonium chloride, followed by extraction with ethyl acetate. The organic layer was washed successively with a saturated aqueous solution of ammonium chloride and a saturated aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate, and then the solvent was distilled away under reduced pressure. The resulting residue was purified through silica gel column chromatography (hexane:ethyl acetate=1:2) to afford 1-(2-furyl)-2-(3-methylpyridin-4-yl)ethanone (3.34 g, 16.6 mmol).

reactant | 3,4-Dimethylpyridine | 20.0 mmol, 2.25 mL | CC=1C=NC=CC1C | C7H9N
reactant | ethyl furan-2-carboxylate | 40.0 mmol, 5.02 mL | O1C(=CC=C1)C(=O)OCC | C7H8O3
reactant | lithium hexamethyldisilazide | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 40.0 mmol, 40.0 mL | C1CCOC1 | C4H8O
product | 1-(2-furyl)-2-(3-methylpyridin-4-yl)ethanone | 16.6 mmol, 3.34 g | O1C(=CC=C1)C(CC1=C(C=NC=C1)C)=O | C12H11NO2
